US06962935B2
Part B. Preparation of 3-(3-cyanophenyl)-5-(methoxymethyl)-isoxazole-4-carboxylic acid.
Methyl 3-(3-cyanophenyl)-5-(methoxymethyl)isoxazole-4-carboxylate (1.12 g, 4.1 mmol) was dissolved in 3 mL THF and 1 mL water. Lithium hydroxide monohydrate (0.20 g, 4.9 mmol) was added and the reaction was allowed to stir for 24 hours under N2. The solvent was removed in vacuo and redissolved in 100 mL of water. The resulting solution was extracted with 30 mL EtOAc twice then acidified with 1N HCl to pH 3. The acidic solution was extracted three times with 30 mL of EtOAc. The combined organic were dried with MgSO4 and concentrated in vacuo to give the desired white solid (0.80 g, 75%). 1H NMR (CDCl3) δ: 7.98 (m, 1H); 7.91 (dd, J=8.1, 2.9, 1H); 7.79 (dd, J=8.1 , 2.9, 1H); 7.59 (t, J=8.1, 1H); 4.89 (s, 2H); 3.53 (s, 3H).

reactant | Methyl 3-(3-cyanophenyl)-5-(methoxymethyl)isoxazole-4-carboxylate | 4.1 mmol, 1.12 g | C(#N)C=1C=C(C=CC1)C1=NOC(=C1C(=O)OC)COC | C14H12N2O4
reactant | Lithium hydroxide monohydrate | 4.9 mmol, 0.20 g | O.[OH-].[Li+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | 3-(3-cyanophenyl)-5-(methoxymethyl)-isoxazole-4-carboxylic acid | 0.80 g, 75% | C(#N)C=1C=C(C=CC1)C1=NOC(=C1C(=O)O)COC | C13H10N2O4
